US08304557B2
N-[6-(3-amino-4-chlorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide
Trifluoroacetic acid (30 mL) was added to tert-butyl [2-chloro-5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]carbamate (5.59 g, 12.6 mmol), and the mixture was stirred at room temperature for 30 min. The reaction solution was concentrated under reduced pressure, and ethyl acetate was added to the residue. The mixture was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was washed with ethyl acetate-hexane to give the title compound (3.58 g, 83%) as a white solid.

reactant | tert-butyl [2-chloro-5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]carbamate | 12.6 mmol, 5.59 g | ClC1=C(C=C(C=C1)OC=1C=CC=2N(C1)N=C(N2)NC(=O)C2CC2)NC(OC(C)(C)C)=O | C21H22ClN5O4
solvent | Trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-[6-(3-amino-4-chlorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 3.58 g, 83% | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1Cl | C16H14ClN5O2
